US06096884
Synthesis of 4-(4-Chlorobutyl)-3,8-Dichloro-4,5-Dihydro-1,4-Benzoxazepin-5-One
918 mg of 8-chloro-2,3,4,5-tetrahydro-1,4-benzoxazepine-3,5-dione was dissolved in 20 ml of acetone, 1.2 g (2 equivalents) of potassium carbonate and 819 mg (1.1 equivalents) of 1-bromo-4-chlorobutane were added, and the mixture heated and refluxed for 7 hours. The resultant mixture was allowed to cool, then filtered. The filtrate was condensed and the residue obtained was dissolved in 2 ml of phosphorus oxychloride. Further, 1.4 ml (2 equivalents) of N,N-diethylaniline was added and the mixture was stirred at 90° C. for 12 hours. The phosphorus oxychloride was distilled off and a 10% sodium hydroxide aqueous solution added under ice cooling. The mixture was extracted with methylene chloride, then was washed with a saturated aqueous solution of potassium bicarbonate and saturated saline and dried over anhydrous magnesium sulfate. The solvent was distilled off and the crude product obtained was purified by silica gel column chromatograph (hexane:ethyl acetate=6:1) to obtain 598 mg of the above-identified compound (yield 43%).

reactant | 8-chloro-2,3,4,5-tetrahydro-1,4-benzoxazepine-3,5-dione | 918 mg | ClC1=CC2=C(C(NC(CO2)=O)=O)C=C1 | C9H6ClNO3
reactant | potassium carbonate | 1.2 g, 2 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromo-4-chlorobutane | 819 mg, 1.1 equivalents | BrCCCCCl | C4H8BrCl
reactant | N,N-diethylaniline | 1.4 ml, 2 equivalents | C(C)N(C1=CC=CC=C1)CC | C10H15N
reactant | phosphorus oxychloride | 2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | 4-(4-Chlorobutyl)-3,8-Dichloro-4,5-Dihydro-1,4-Benzoxazepin-5-One | 598 mg, yield 43% | ClCCCCN1C(=COC2=C(C1=O)C=CC(=C2)Cl)Cl | C13H12Cl3NO2
